US04762848
4-Carboxy-5-ethylthio-1,3-thiazole
6 g of methyl 5-ethylthio-1,3-thiazole-4-carboxylate were dissolved in 100 ml of methanol and heated with 1.2 g of NaOH in 10 ml of water under reflux for about 1 h. After the solvent had been removed in a rotary evaporator, the solids were removed by filtration, and the filtrate was acidified with 2N HCl solution. After drying, 4.7 g of the title compound, of melting point 158°-9° C., were obtained.

reactant | methyl 5-ethylthio-1,3-thiazole-4-carboxylate | 6 g | C(C)SC1=C(N=CS1)C(=O)OC | C7H9NO2S2
reactant | NaOH | 1.2 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 4-Carboxy-5-ethylthio-1,3-thiazole | 4.7 g | C(=O)(O)C=1N=CSC1SCC | C6H7NO2S2
